US08604055B2
To a suspension of (3-{[(3,5-bis-trifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-methyl}-quinolin-2-yl)-cyclopentylmethyl-ethyl-amine (0.133 g, 0.230 mmol in water (4 mL) was added sodium hydroxide (0.009 g, 0.230 mmol), and this mixture was stirred for 15 min at RT, followed by the addition of dichloromethane (4 mL). To this reaction mixture was added dimethyl sulfate (0.030 g, 0.241 mmol), followed by the addition of tetrabutylammonium bromide (0.003 g, 0.011 mmol). This mixture was stirred for 24 h. The organic layer was separated from aqueous layer, the aqueous layer was extracted with DCM (3×10 mL), the combined organic layer was washed with brine and dried over sodium sulfate, and concentrated under vacuum to afford the crude residue. This residue was purified by column chromatography over 100-200 mesh silica gel using 8% ethyl acetate and petroleum ether to afford (3-{[3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazole-5-yl)-amino]-methyl-}-quinoline-2-yl)-cyclopentylmethyl-ethyl amine (0.030 g, yield: 22%).

reactant | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-methyl}-quinolin-2-yl)-cyclopentylmethyl-ethyl-amine | FC(C=1C=C(CN(C2=NN=NN2)CC=2C(=NC3=CC=CC=C3C2)N(CC)CC2CCCC2)C=C(C1)C(F)(F)F)(F)F | C28H29F6N7
reactant | sodium hydroxide | 0.230 mmol, 0.009 g | [OH-].[Na+]
reactant | dichloromethane | 4 mL | ClCCl | CH2Cl2
reactant | dimethyl sulfate | 0.241 mmol, 0.030 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 4 mL | O | H2O
catalyst | tetrabutylammonium bromide | 0.011 mmol, 0.003 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | cyclopentylmethyl-ethyl amine | 0.030 g, yield: 22% | C1(CCCC1)CNCC | C8H17N
